US08604062B2
Step a) (E)- and/or (Z)-4-Chloro-benzaldehyde oxime
To a suspension of 4-chlorobenzaldehyde (25.0 g, 178 mmol) and hydroxylamine hydrochloride (13.7 g, 198 mmol) in ethanol (14.1 mL) and water (42.9 mL) was added ice (82 g). Then a solution of sodium hydroxide (18.1 g, 454 mmol) in water (21.4 mL) was added dropwise within a 10 min period (temperature rises from −8° C. to +7° C.) whereupon most of the solid dissolves. After 30 min stirring at room temperature a white solid precipitated and the resulting mixture was then diluted with water and acidified with HCl (4 N). The white precipitate was then filtered off, washed with water and dried under high vacuum to afford the title compound (27.0 g, 97%) which was obtained as an off white solid. MS m/e (EI): 155.1 [M]+.

reactant | 4-chlorobenzaldehyde | 178 mmol, 25.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | hydroxylamine hydrochloride | 198 mmol, 13.7 g | Cl.NO
reactant | sodium hydroxide | 454 mmol, 18.1 g | [OH-].[Na+]
solvent | ethanol | 14.1 mL | C(C)O | C2H6O
solvent | water | 42.9 mL | O | H2O
solvent | water | 21.4 mL | O | H2O
product | (Z)-4-Chloro-benzaldehyde oxime | 27.0 g, 97% | ClC1=CC=C(\C=N/O)C=C1 | C7H6ClNO
